US07691902B2
To a solution of crude (4′-aminomethyl-biphenyl-3-yl)-carbamic acid tert-butyl ester (8.2 g 27 mmol) and Et3N (4.2 g, 40 mmol) in dichloromethane (250 mL) was added dropwise MsCl (3.2 g, 27 mmol) at 0° C. The reaction mixture was stirred at this temperature for 30 min and was then washed with water and saturated aqueous NaCl solution, dried over Na2SO4, and concentrated to dryness. The residue was recrystallized with DCM/pet ether (1:3) to give [4′-(methanesulfonylamino-methyl)-biphenyl-3-yl]-carbamic acid tert-butyl ester (7.5 g, yield 73%). 1H NMR (300 MHz, CDCl3) δ 7.67 (s, 1H), 7.58 (d, J=8.1 Hz, 2H), 7.23-7.41 (m, 5H), 6.57 (s, 1H), 4.65-4.77 (m, 1H), 4.35 (d, J=6 Hz, 2H), 2.90 (s, 3H), 1.53 (s, 9H).

reactant | (4′-aminomethyl-biphenyl-3-yl)-carbamic acid tert-butyl ester | 27 mmol, 8.2 g | C(C)(C)(C)OC(NC=1C=C(C=CC1)C1=CC=C(C=C1)CN)=O | C18H22N2O2
reactant | Et3N | 40 mmol, 4.2 g | CCN(CC)CC | C6H15N
reactant | MsCl | 27 mmol, 3.2 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | [4′-(methanesulfonylamino-methyl)-biphenyl-3-yl]-carbamic acid tert-butyl ester | 7.5 g, yield 73% | C(C)(C)(C)OC(NC=1C=C(C=CC1)C1=CC=C(C=C1)CNS(=O)(=O)C)=O | C19H24N2O4S
